US07521462B2
Portions of 1,1′-carbonyldiimidazole (2.06 g, 12.7 mmol) are added to a stirred mixture of isoquinoline-1-carboxylic acid (2.00 g, 11.6 mmol) in dichloromethane (25 ml). N,O-dimethylhydroxylamine hydrochloride (1.24 g, 12.7 mmol) is added and the mixture is stirred at ambient temperature overnight. The reaction mixture is diluted with dichloromethane and then washed with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. The organic solution is dried with sodium sulfate, filtered, and concentrated to give 2.5 g of N-methyl N-methoxy isoquinoline-1-carboxamide, which is used in the next step without further purification: mass spectrum (ion spray): m/z=217.0 (M+1).

reactant | 1,1′-carbonyldiimidazole | 12.7 mmol, 2.06 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isoquinoline-1-carboxylic acid | 11.6 mmol, 2.00 g | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 12.7 mmol, 1.24 g | Cl.CNOC
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-methyl N-methoxy isoquinoline-1-carboxamide | 2.5 g | CN(C(=O)C1=NC=CC2=CC=CC=C12)OC | C12H12N2O2
